US04542142
900 mg of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-chloro-3-oxo-1-propenyl]-cyclopropane carboxylate were dissolved in 3 ml of methylene chloride and 1 ml of 1-trifluoromethyl-1-methyl propanol was added thereto. The mixture was stirred for 16 hours at room temperature under inert atmosphere and away from humidity. After 3 days at room temperature, the reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate, then with water, dried and evaporated to dryness. The residue was chromatographed over silica gel and eluted with a 8-2 mixture of hexane-ethyl ether to obtain 570 mg of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-(1-trifluoromethyl-1-methylpropyloxy)-1-propenyl]-cyclopropane-carboxylate.

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-chloro-3-oxo-1-propenyl]-cyclopropane carboxylate | 900 mg | CC1([C@@H]([C@@H]1\C=C/C(=O)Cl)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H20ClNO4
reactant | 1-trifluoromethyl-1-methyl propanol | 1 ml | FC(C(CC)(O)C)(F)F | C5H9F3O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[(Z) 3-oxo-3-(1-trifluoromethyl-1-methylpropyloxy)-1-propenyl]-cyclopropane-carboxylate | 570 mg | CC1([C@@H]([C@@H]1\C=C/C(OC(CC)(C)C(F)(F)F)=O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C28H28F3NO5
